US08791147B2
Preparation of 6-methoxy-5-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)nicotinaldehyde
5-((tert-Butyldimethylsilyloxy)methyl)-2-fluoro-3-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)pyridine (0.204 g, 0.490 mmol) was placed into a microwave vial with MeOH (1.0 mL), and NaOMe (0.132 g, 2.45 mmol). The vial was sealed and irradiated at 130° C. for 7 min, worked up by adding H2O (5 mL) and EtOAc (5 mL). The layers were separated and the aqueous layer was washed with EtOAc (3×5 mL). The combined organic layers were then washed with 1M sodium phosphate buffer (pH 5.5) (2×5 mL), dried (MgSO4), filtered, and concentrated. This residue was then dissolved in 5 mL of tetra-butylammonium fluoride (1M in THF) and stirred at rt overnight. The reaction was then quenched by adding water (5 mL) and extracting with EtOAc (3×5 mL). The combined organic layers were then washed with brine (1×5 mL), dried (MgSO4), filtered, and concentrated. The resulting crude oil was then placed into a flame dried flask and to this was added N-methylmorpholine N-oxide (0.169 g, 1.44 mmol), 4 Å molecular sieves (10 mg), and CH2Cl2 (1.0 mL). Tetrapropylammonium perruthenate (8.43 mg, 0.024 mmol) was then added, and the suspension was stirred at rt overnight. The reaction mixture was then worked up by filtering through Celite® and concentrating the filtrate to give the title compound.

reactant | 5-((tert-Butyldimethylsilyloxy)methyl)-2-fluoro-3-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)pyridine | 0.490 mmol, 0.204 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C(=NC1)F)C=1C=NC(=CC1)OCC(F)(F)F | C19H24F4N2O2Si
reactant | MeOH | 1.0 mL | CO | CH4O
reactant | NaOMe | 2.45 mmol, 0.132 g | C[O-].[Na+]
reactant | N-methylmorpholine N-oxide | 1.44 mmol, 0.169 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | Tetrapropylammonium perruthenate | 0.024 mmol, 8.43 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 5 mL | O | H2O
product | 6-methoxy-5-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)nicotinaldehyde | COC1=NC=C(C=O)C=C1C=1C=NC(=CC1)OCC(F)(F)F | C14H11F3N2O3
